US04910318
(1) 4-Formyl-4,5-dimethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole
A solution of 4-formyl-5-methyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole (2.31 g) in dry tetrahydrofuran (25 ml) is mixed with 50% sodium hydride (480 mg) and stirred at room temperature for 1.5 hours. Under ice cooling, a solution of methyl iodide (1.7 g) in dry tetrahydrofuran (5 ml) is added dropwise thereto over 5 minutes. The mixture is stirred further for 1.5 hours at room temperature and poured into ice water, which is extracted with ether. The extract is washed with water, dried and evaporated to dryness. The residue is applied to liquid chromatography eluted with benzene/hexane (5:1) to give the title compound (1.62 g): Yield 66.2%.

reactant | 4-formyl-5-methyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole | 2.31 g | C(=O)C1CCSC2=C1N(C=1C=CC=CC21)C | C13H13NOS
reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | methyl iodide | 1.7 g | CI | CH3I
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-Formyl-4,5-dimethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole | 1.62 g, Yield 66.2% | C(=O)C1(CCSC2=C1N(C=1C=CC=CC21)C)C | C14H15NOS
